US09382234B2
To a stirred suspension of cis-4-hydroxycyclohexanecarboxylic acid (1.0 g, 6.94 mmol), benzylamine (0.82 mL, 7.51 mmol) and HOAt (1.0 g, 7.35 mmol) in dichloromethane (50 mL) was added EDC free base (1.2 g, 7.73 mmol). The reaction was stirred overnight at room temperature, at which time it was washed with 1 N HCl, 1 N Na2CO3, brine, dried (MgSO4), filtered and concentrated under vacuum. Purification by silica gel chromatography (Analogix, SF25-80 g, 0 to 4% MeOH in CH2Cl2) gave (cis)-N -benzyl-4-hydroxycyclohexanecarboxamide (1.0 g, 4.29 mmol, 61.8% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ 8.20 (t, J=5.81Hz, 1H), 7.26-7.38 (m, 2H), 7.11-7.27 (m, 3H), 4.31 (d, J=3.28 Hz, 1H), 4.25 (d, J=6.06 Hz, 2H), 3.76 (d, J=2.53 Hz, 1H), 2.08-2.22 (m, 1H), 1.73-1.89 (m, 2H), 1.56-1.69 (m, 2H), 1.33-1.49 (m, 4H). MS(ES) [M+H]+ 234.0.

reactant | cis-4-hydroxycyclohexanecarboxylic acid | 6.94 mmol, 1.0 g | O[C@H]1CC[C@H](CC1)C(=O)O | C7H12O3
reactant | benzylamine | 7.51 mmol, 0.82 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | HOAt | 7.35 mmol, 1.0 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 7.73 mmol, 1.2 g
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 80 g | CO | CH4O
product | (cis)-N -benzyl-4-hydroxycyclohexanecarboxamide | 4.29 mmol, 1.0 g, 61.8% yield | C(C1=CC=CC=C1)NC(=O)[C@@H]1CC[C@@H](CC1)O | C14H19NO2
